US04279834
After scavenging with nitrogen and then with hydrogen, commercial hydrogen is introduced under a pressure of 170 atm and then the autoclave is heated to about 105° C. for six hours. Thereafter the autoclave is cooled, the pressure is released and the autoclave is charged with a solution of 68 grams of 2,3,3-trimethylglutaronitrile dissolved in 30 mls abs.ethanol, the scavenging with nitrogen is repeated, there are charged 160 grams of anhydrous ammonia and finally commercial hydrogen is introduced under a pressure of 165 atm approx. The autoclave, which is fitted with a magnetic stirrer, is heated to about 105° C.-108° C. the hydrogen pressure being restored as hydrogen is gradually being absorbed. After about 2 hrs. the pressure does not decrease any more and the above specified temperature is maintained for three additional hours, whereafter the autoclave is allowed to cool. The catalyst is filtered off, the solvent is distilled off and, on the raw production of the reaction, the yield in terms of 2,3,3-trimethyl pentamethylene diamine is determined by gaschromatographic methods in the presence of an internal standard (yield 65%-70%). The diamine is then purified by fractionation and, under a pressure of about 12 Torr. it boils at 105° C.-106° C.

reactant | hydrogen | [H][H] | H2
reactant | 2,3,3-trimethylglutaronitrile | 68 grams | CC(C#N)C(CC#N)(C)C | C8H12N2
reactant | ammonia | 160 grams | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | 2,3,3-trimethyl pentamethylene diamine | yield 65%-70% | CC(CN)C(CCN)(C)C | C8H20N2
